US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-ethyl-1-(pyrrolidine-1-carbonyl)-propoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
At room temperature, a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.084 mmol), pyrrolidine (12 mg, 0.17 mmol), HATU (63.5 mg, 0.17 mmol) and DMAP (40.8 mg, 0.33 mmol) in DMF (2 mL) was stirred for 5 h. Then the mixture was poured into water and extracted with EtOAc thrice. The combined organic layers were washed with saturated NaCl solution twice, dried over anhydrous Na2SO4 and concentrated. The residue was purified by flash column to give the title compound as a white solid (30 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.084 mmol, 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)O)CC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29Cl2FN2O5
reactant | pyrrolidine | 0.17 mmol, 12 mg | N1CCCC1 | C4H9N
reactant | HATU | 0.17 mmol, 63.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
catalyst | DMAP | 0.33 mmol, 40.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-ethyl-1-(pyrrolidine-1-carbonyl)-propoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 30 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)N1CCCC1)CC)=O)C1=C(C=CC(=C1)F)C)=O | C35H36Cl2FN3O4
